US04781921
(V-a): Propylene oxide (181.6 g, 0.3 mol) in 25 mL of absolute ethanol was added dropwise for 4.5 hours to a solution of N,N'-bis(2-hydroxypropyl)ethylenediamine (IV-a) (55 g, 0.3 mol) in 50 mL each of absolute ethanol, methanol and distilled water at 80° C. The reaction mixture was cooled and concentrated to give a milky white viscous suspension. The suspension was dissolved in ether and dried over anhydrous sodium sulfate. Unreacted (IV-a) precipitated and was removed by filtration. Ether was removed from the clear filtrate to produce a viscous liquid. Fractional distillation of the oil produced N,N,N'-tris(2-hydroxypropyl)ethylenediamine [bp. 140° C. at 0.15 mm; yield 55 percent; IR(neet): 3350(broad OH); NMR(CDCl3): δ 3.8(broad m, 3H); 2.5(broad m, 10H); 1.1(d, 9H)].

reactant | Propylene oxide | 0.3 mol, 181.6 g | C1C(C)O1 | C3H6O
reactant | N,N'-bis(2-hydroxypropyl)ethylenediamine | 0.3 mol, 55 g | OC(CNCCNCC(C)O)C | C8H20N2O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | N,N,N'-tris(2-hydroxypropyl)ethylenediamine | yield 55 percent | OC(CN(CCNCC(C)O)CC(C)O)C | C11H26N2O3
